US04838924
2,3-Dihydro-2,2-dimethyl-7-hydroxy-4-methoxy-4H-1-benzopyran (a precursor of compound No. 187)
7-Benzyloxy-2,3-dihydro-2,2-dimethyl-4-oxobenzopyran synthesized as in Referential Example 22 was dissolved in 60 ml of methanol, and reduced with 1.0 g of sodium borohydride at room temperature. The product was dissolved in 10 ml of tetrahydrofuran, and the solution was added dropwise to a mixture of 1.0 g of 60% sodium hydride and 5 ml of tetrahydrofuran. After generation of hydrogen ceased, 4.3 g of methyl iodide was added dropwise, and the mixture was further stirred for 2.5 hours at room temperature. The reaction mixture was extracted with ethyl acetate. The extract was concentrated, and the residue was dossolved in 30 ml of ethanol and hydrogenated at room temperature for 8 hours in the presence of 5% palladium-carbon catalyst. The crude product was purified by column chromatography to give 2.2 g (yield 58%) of the desired product as a pale brown liquid.

reactant | 7-Benzyloxy-2,3-dihydro-2,2-dimethyl-4-oxobenzopyran | C(C1=CC=CC=C1)OC1=CC2=C(C(CC(O2)(C)C)=O)C=C1 | C18H18O3
reactant | sodium borohydride | 1.0 g | [BH4-].[Na+]
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 4.3 g | CI | CH3I
solvent | methanol | 60 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2,3-Dihydro-2,2-dimethyl-7-hydroxy-4-methoxy-4H-1-benzopyran | 2.2 g, yield 58% | CC1(OC2=C(C(C1)OC)C=CC(=C2)O)C | C12H16O3
